US06630578B2
3,5-Bis(3,5-di-tertiary-butylbenzylthio)benzyl alcohol (49.0 g, 84.9 mmol) and carbon tetrabromide (28.2 g, 85.0 mmol) were dissolved in 300 ml of tetrahydrofuran. To this solution was added with stirring triphenylphosphin (23.5 g, 89.6 mmol), at the temperatures of 10° C. or below. The reaction mixture became clear once, and then colorless crystals separated gradually. After stirring overnight at 25-30° C., the crystals were removed by filtration and the filtrate was concentrated. The residue obtained was purified by means of chromatography with n-hexane:dichloromethane=1:1, giving 34.8 g of 3,5-bis(3,5-di-tertiary-butylbenzylthio)benzyl bromide.

reactant | 3,5-Bis(3,5-di-tertiary-butylbenzylthio)benzyl alcohol | 84.9 mmol, 49.0 g | C(C)(C)(C)C=1C=C(CSC=2C=C(CO)C=C(C2)SCC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C1)C(C)(C)C | C37H52OS2
reactant | carbon tetrabromide | 85.0 mmol, 28.2 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphin | 89.6 mmol, 23.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3,5-bis(3,5-di-tertiary-butylbenzylthio)benzyl bromide | 34.8 g | C(C)(C)(C)C=1C=C(CSC=2C=C(CBr)C=C(C2)SCC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C1)C(C)(C)C | C37H51BrS2
